US09334269B2
To a solution of 3-aminopropan-1-ol (1.0 g, 13.1 mmol) and isobenzofuran-1,3-dione (2.0 g, 13.1 mmol) in toluene (25 mL, 3 mL/mmol) was added Et3N (2 mL, 13.1 mmol) and the reaction was heated at reflux for 24 h. Then reaction was quenched with water and extracted with EtOAc (2×40 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure to afford 2-(3-hydroxypropyl)isoindoline-1,3-dione (1.8 g, 87%). Observed mass (M+1): 206.1. This material was taken to the next step without further purification.

reactant | 3-aminopropan-1-ol | 13.1 mmol, 1.0 g | NCCCO | C3H9NO
reactant | isobenzofuran-1,3-dione | 13.1 mmol, 2.0 g | C1(OC(C2=CC=CC=C12)=O)=O | C8H4O3
reactant | Et3N | 13.1 mmol, 2 mL | CCN(CC)CC | C6H15N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-hydroxypropyl)isoindoline-1,3-dione | 1.8 g, 87% | OCCCN1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
